Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea on exertion
 
Major Surgical or Invasive Procedure:
re-do sternotomy AVR (25 tissue)

 
History of Present Illness:
 
Past Medical History:
Cornary artery disease 
Aortic valve stenosis
Mild renal insufficiency (Creat 1.4)
Hypothyroid
Hypertension
Obesity
Hyperlipidemia
Osteoarthritis
Varicose veins
Depression/Anxiety
Recent Teeth Extractions on ___
Pubovaginal sling
Hysterectomy
CABGx2 in ___ at ___ - unable to obtain op note
Knee replacement (Bilateral)
Vein stripping and ligation bilaterally
Past Cardiac Procedures: CABG ___

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Physical Exam

BP: 143/69 Pulse: 67  Resp: 16 O2 sat: 96%
Height: 63 inches    Weight: 194 lbs

General: WDWN female in NAD...obese
Skin: Warm, Dry and intact. Well healed sternotomy.
HEENT: NCAT, PERRLA, EOMI, sclera anicteric, OP benign. Teeth in
fair repair. Partial upper/lower plates noted.
Neck:  Supple [X] Full ROM [X] No JVD
Chest: Lungs clear bilaterally [X]
Heart: RRR [X], III/VI SEM 
Abdomen: Soft [X] non-distended [X] non-tender [X]  bowel sounds
+ [X]
Extremities: Warm [X], well-perfused [X]  No Edema 
Varicosities: ? Incision at left knee. Anterior varicosities
bilaterally. 
Neuro: Grossly intact [X]
Pulses:
Femoral      Right:2   Left:2
DP           Right:1   Left:1
___           Right:1   Left:1
Radial       Right:2   Left:2

Carotid Bruit        Transmitted murmur to carotids R>L

 
Pertinent Results:
ECHO ___
PRE-BYPASS: 
-No spontaneous echo contrast is seen in the body of the left 
atrium. 
-The right atrium is dilated. 
-The left ventricular cavity size is normal. Overall left 
ventricular systolic function is normal (LVEF>55%). with normal 
free wall contractility. 
-There are complex (>4mm) atheroma in the aortic arch. There are 
complex (mobile) atheroma in the aortic arch. 
-There are complex (>4mm) atheroma in the descending thoracic 
aorta. 
-There are three aortic valve leaflets. The aortic valve 
leaflets are severely thickened/deformed. There is critical 
aortic valve stenosis (valve area 0.7cm2). Mild (1+) aortic 
regurgitation is seen. 
-The mitral valve leaflets are moderately thickened. Trace to 
mild (1+) mitral regurgitation is seen. 
-Dr. ___ was notified in person of the results in the 
operating room. 

POSTBYPASS:
There is a bioprosthetic aortic valve in the aortic position. 
The valve appears well-seated with normal leaflet mobility. 
There are no paravalvular leaks seen and no AI.

LV systolic function remains normal with estimated EF>55%. Other 
valvular function remains unchanged. There is no evidence of 
aortic dissection.  
 
Brief Hospital Course:
The patient was admitted to the hospital and brought to the 
operating room on ___ where the patient underwent re-do 
sternotomy AVR (25 tissue). See operative note for details. 
Overall the patient tolerated the procedure well and 
post-operatively was transferred to the CVICU in stable 
condition for recovery and invasive monitoring.  Cefazolin was 
used for surgical antibiotic prophylaxis.  POD 1 found the 
patient extubated, alert and oriented and breathing comfortably. 
 The patient was neurologically intact and hemodynamically 
stable on no inotropic or vasopressor support.  Beta blocker was 
initiated and the patient was gently diuresed toward the 
preoperative weight.  The patient was transferred to the 
telemetry floor for further recovery.  Chest tubes and pacing 
wires were discontinued without complication.  The patient was 
evaluated by the physical therapy service for assistance with 
strength and mobility.  By the time of discharge on POD #4 the 
patient was ambulating freely, the wound was healing and pain 
was controlled with oral analgesics.  The patient was discharged 
to ___ in rehab in ___ in good condition with 
appropriate follow up instructions.
 
Medications on Admission:
ATENOLOL 25 mg daily, BUPROPION HCL 150 mg daily, CLONAZEPAM 2 
mg daily, LEVOTHYROXINE 12.5 mcg daily, PRAVASTATIN 40 mg daily, 
PENICILLIN - UNKNOWN DOSE, ACETAMINOPHEN 500 mg daily, ASPIRIN 
81 mg daily, CHOLECALCIFEROL 1,000 unit BID, DIPHENHYDRAMINE 
daily, MULTIVITAMIN-MINERALS-LUTEIN daily, OMEGA-3 FATTY 
ACIDS-VITAMIN E [FISH OIL] daily 
 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
4. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. Lasix 20 mg Tablet Sig: One (1) Tablet PO once a day for 5 
days.  
6. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*65 Tablet(s)* Refills:*0*
7. pravastatin 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
8. bupropion HCl 150 mg Tablet Extended Release Sig: One (1) 
Tablet Extended Release PO DAILY (Daily).  
9. cholecalciferol (vitamin D3) 1,000 unit Tablet Sig: One (1) 
Tablet PO BID (2 times a day).  
10. clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day) as needed for anxiety.
Disp:*65 Tablet(s)* Refills:*0*
11. hydralazine 50 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours).  
12. levothyroxine 25 mcg Tablet Sig: 0.5 Tablet PO DAILY 
(Daily).  
13. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H 
(every 4 hours) as needed for pain/temp.  
14. metoprolol tartrate 25 mg Tablet Sig: Three (3) Tablet PO 
TID (3 times a day).  
15. potassium chloride 10 mEq Tablet Extended Release Sig: Two 
(2) Tablet Extended Release PO once a day for 5 days.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Cornary artery disease, Aortic valve stenosis, Mild renal 
insufficiency (Creat 1.4), Hypothyroid, Hypertension, Obesity, 
Hyperlipidemia, Osteoarthritis, Varicose veins, 
Depression/Anxiety, Recent Teeth Extractions on ___, 
Pubovaginal sling, Hysterectomy  
CABGx2 in ___ at ___, Knee replacement (Bilateral), 
Vein stripping and ligation bilaterally, s/p CABG ___  

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with percocet
Incisions: 
Sternal - healing well, no erythema or drainage 
Edema None
 

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 

 
Followup Instructions:
___